US05167949
c) 2-Isopropoxymethyl-4(3H)-pteridinone
Obtained using the procedure described in section d of Example 2, starting with 4.5 g (0.0205 mole) of 4-amino-2-(isopropoxymethyl)pteridine in 150 ml of 5% aqueous sodium hydroxide. Heating time: 2 hours at 80° C. Yld: 3.0 g (66%), m.p. 198°-199° C. (ethanol).

reactant | 4-amino-2-(isopropoxymethyl)pteridine | 0.0205 mole, 4.5 g | NC1=NC(=NC2=NC=CN=C12)COC(C)C | C10H13N5O
reactant | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | 150 ml | [OH-].[Na+]
product | 2-Isopropoxymethyl-4(3H)-pteridinone | C(C)(C)OCC1=NC2=NC=CN=C2C(N1)=O | C10H12N4O2
